US09120770B2
Intermediate 7. 5-Bromo-3-(3-chlorophenyl)-2-methoxypyridine
5-(3-Chlorophenyl)-6-methoxypyridin-3-amine. A 10 mL microwave vial was charged with 5-bromo-6-methoxypyridin-3-amine (2.00 g, 10 mmol) (3-chlorophenyl)boronic acid (1.87 g, 12 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride DCM complex (365 mg, 0.45 mmol), ACN (6 mL) and saturated aq. sodium bicarbonate (3 mL). The vial was sealed, purged with nitrogen and heated at 110° C. for 15 min. The layers were separated and the aq. phase extracted with EtOAc. The combined organic layers were dried (Na2SO4), and the solvent was removed under reduced pressure. Purification (FCC, SiO2, 0-50%, EtOAc/hexanes) afforded the title compound (1.95 g, 84%) which was taken on directly to the next step.

reactant | 5-(3-Chlorophenyl)-6-methoxypyridin-3-amine | ClC=1C=C(C=CC1)C=1C=C(C=NC1OC)N | C12H11ClN2O
reactant | 5-bromo-6-methoxypyridin-3-amine | 10 mmol, 2.00 g | BrC=1C=C(C=NC1OC)N | C6H7BrN2O
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | ACN | 6 mL | C(C)#N | C2H3N
product | 5-Bromo-3-(3-chlorophenyl)-2-methoxypyridine | 1.95 g, 84% | BrC=1C=C(C(=NC1)OC)C1=CC(=CC=C1)Cl | C12H9BrClNO
